US03950427
(E)-4-(4-cyclohexyl-phenyl)-3-pentene-2-one was prepared analogous to Example 52 from 4'-cyclohexyl-acetophenone and ethyl (E)-3-ethoxy-crotonate with a yield of 55% of theory. B.p. 148°-151°C at 0.4 mm Hg; m.p. 49°-50°C (after recrystallization from methanol and petroleum ether). Characteristic signals in NMR (CDCl3): τ 3.50 (1H-q; /J/=1.2 ± 0.1 Hz); τ 7.50 (3H-d; /J/=1.2 ± 0.1 Hz).

reactant | 4'-cyclohexyl-acetophenone | C1(CCCCC1)C1=CC=C(C=C1)C(C)=O | C14H18O
reactant | ethyl (E)-3-ethoxy-crotonate | C(C)O/C(=C/C(=O)OCC)/C | C8H14O3
product | (E)-4-(4-cyclohexyl-phenyl)-3-pentene-2-one | yield of 55% | C1(CCCCC1)C1=CC=C(C=C1)/C(=C/C(C)=O)/C | C17H22O
